US08076345B2
5-Methyl-2-(4-(quinolin-2-ylmethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (150 mg, 0.52 mmol) and quinolin-2-ylmethanamine hydrochloride (206.0 mg, 1.058 mmol) in acetonitrile (1 mL) and N,N-diisopropylethylamine (1 mL, 6 mmol) was subjected to microwave irradiation at 185° C. for 3.5 h. The reaction mixture was concentrated and the residue was purified by preparative HPLC (30-60% acetonitrile-water [10 mM DEA]) to afford a light yellow solid.

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 0.52 mmol, 150 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | quinolin-2-ylmethanamine hydrochloride | 1.058 mmol, 206.0 mg | Cl.N1=C(C=CC2=CC=CC=C12)CN
reactant | N,N-diisopropylethylamine | 6 mmol, 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 5-Methyl-2-(4-(quinolin-2-ylmethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | CC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC2=NC3=CC=CC=C3C=C2)CC1 | C25H22N6
